US07378418B2
354D. Preparation of 4-Chloro-5-(4-chlorophenyl)-2H-pyridazin-3-one
2-Benzyl-4-Chloro-5-(4-chloro-phenyl)-2H-pyridazin-3-one (3.19 g, 9.65 mmol) was dissolved in toluene (50 mL). Aluminum chloride (AlCl3, 3.22 g, 24.1 mmol) was then added and the reaction mixture was heated at 50° C. After 20 min, the reaction mixture was cooled to RT and then poured into ice-water (200 mL). The resultant solution was extracted with EtOAc (3×200 mL). The combined organic layers were washed with water (500 mL). The organic layer was dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel using EtOAc to give the title compound, 4-chloro-5-(4-chlorophenyl)-2H-pyridazin-3-one (2.33 g) as a white solid. HPLC: 2.74 min.

reactant | 2-Benzyl-4-Chloro-5-(4-chloro-phenyl)-2H-pyridazin-3-one | 9.65 mmol, 3.19 g | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)Cl)C1=CC=C(C=C1)Cl | C17H12Cl2N2O
reactant | Aluminum chloride | 24.1 mmol, 3.22 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-5-(4-chlorophenyl)-2H-pyridazin-3-one | 2.33 g | ClC=1C(NN=CC1C1=CC=C(C=C1)Cl)=O | C10H6Cl2N2O
